* bias_core -- post-layout netlist
* GENERATED by layout/postlayout.py -- do not edit.
*
* FROM THE LAYOUT: every device and its dimensions, the whole
*   topology, and first-order interconnect R/C on 47/50 nets
*   (sigma 1940.1 fF). klt 0.2.0, deck gf180mcu,
*   GDS sha256 b2e68f8087bcf31c...
* Net names are the schematic's, restored through klt lvs's own net
*   correspondence -- match, 50/50 nets, every one paired.
*
* NOT FROM THE LAYOUT -- see layout/postlayout/AUDIT.md:
*   3 body/plate net(s) tied to the net the schematic puts
*   them on. The extraction deck's connectivity stack does not reach
*   an Nwell, a substrate ring, a bipolar base well or a MiM plate,
*   so they extract isolated and would otherwise float.
*   No ideal device: every golden device is drawn.
*
.subckt bias_core VDD VSS IBIAS VREF BIAS_OK

* --- drawn devices ---
X1 VDD VDD KS1 VSS nfet_03v3 L=8u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X2 KS1 KS1 KS2 VSS nfet_03v3 L=8u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X3 KS2 KS2 KS3 VSS nfet_03v3 L=8u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X4 KS3 KS3 KS4 VSS nfet_03v3 L=8u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X5 KS4 KS4 NKG VSS nfet_03v3 L=8u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X6 PG NKG VSS VSS nfet_03v3 L=4u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X7 NBG NBG VSS VSS nfet_03v3 L=4u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X8 PB NBG VSS VSS nfet_03v3 L=4u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X9 NKM NKM VSS VSS nfet_03v3 L=4u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X10 NOKL NOKL VSS VSS nfet_03v3 L=4u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X11 NOKO NOKL VSS VSS nfet_03v3 L=4u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X12 NOKO NKG VSS VSS nfet_03v3 L=1u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X13 NOKX NOKO VSS VSS nfet_03v3 L=4u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X14 N1 N1 VSS VSS nfet_03v3 L=8u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X15 N2 N1 VSS VSS nfet_03v3 L=8u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X16 BIAS_OK NOKX VSS VSS nfet_03v3 L=0.5u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X17 PG N2 VSS VSS nfet_03v3 L=8u W=8u nf=1 ad=6.4p as=6.4p pd=17.6u ps=17.6u m=1
X18 NKG NKM VSS VSS nfet_03v3 L=4u W=8u nf=1 ad=6.4p as=6.4p pd=17.6u ps=17.6u m=1
X19 NKM PB VDD VDD pfet_03v3 L=4u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X20 TOK PB VDD VDD pfet_03v3 L=4u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X21 NOKX PB VDD VDD pfet_03v3 L=4u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X22 BIAS_OK NOKX VDD VDD pfet_03v3 L=4u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X23 NBG PG VDD VDD pfet_03v3 L=4u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X24 PB PB VDD VDD pfet_03v3 L=4u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X25 NT PB VDD VDD pfet_03v3 L=4u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X26 PG PB VDD VDD pfet_03v3 L=4u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X27 NA PG VDD VDD pfet_03v3 L=4u W=8u nf=1 ad=6.4p as=6.4p pd=17.6u ps=17.6u m=1
X28 NBTOP PG VDD VDD pfet_03v3 L=4u W=8u nf=1 ad=6.4p as=6.4p pd=17.6u ps=17.6u m=1
X29 VREF PG VDD VDD pfet_03v3 L=4u W=8u nf=1 ad=6.4p as=6.4p pd=17.6u ps=17.6u m=1
X30 NOKO NA TOK VDD pfet_03v3 L=4u W=8u nf=1 ad=6.4p as=6.4p pd=17.6u ps=17.6u m=1
X31 NOKL NBTOP TOK VDD pfet_03v3 L=4u W=8u nf=1 ad=6.4p as=6.4p pd=17.6u ps=17.6u m=1
X32 N1 NA NT VDD pfet_03v3 L=4u W=16u nf=1 ad=12.8p as=12.8p pd=33.6u ps=33.6u m=1
X33 N2 NB NT VDD pfet_03v3 L=4u W=16u nf=1 ad=12.8p as=12.8p pd=33.6u ps=33.6u m=1
X34 IBIAS PB VDD VDD pfet_03v3 L=4u W=40u nf=1 ad=32p as=32p pd=81.6u ps=81.6u m=1
X35 VSS VSS EC pnp_10p00x10p00
X36 VSS VSS EC pnp_10p00x10p00
X37 VSS VSS EC pnp_10p00x10p00
X38 VSS VSS EC pnp_10p00x10p00
X39 VSS VSS NA pnp_10p00x10p00
X40 VSS VSS EC pnp_10p00x10p00
X41 VSS VSS ER pnp_10p00x10p00
X42 VSS VSS EC pnp_10p00x10p00
X43 VSS VSS EC pnp_10p00x10p00
X44 VSS VSS EC pnp_10p00x10p00
X45 VDD NOKX cap_mim_2f0_m3m4_noshield c_width=6u c_length=6u
X46 PG NZ cap_mim_2f0_m3m4_noshield c_width=20u c_length=20u
X47 VREF XR2__1 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X48 XR2__2 XR2__1 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X49 XR2__2 XR2__3 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X50 XR2__4 XR2__3 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X51 XR2__4 XR2__5 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X52 XR2__6 XR2__5 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X53 XR2__6 XR2__7 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X54 XR2__8 XR2__7 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X55 XR2__8 XR2__9 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X56 XR2__10 XR2__9 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X57 XR2__10 XR2__11 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X58 XR2__12 XR2__11 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X59 XR2__12 XR2__13 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X60 XR2__14 XR2__13 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X61 XR2__14 XR2__15 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X62 ER XR2__15 VSS ppolyf_u_3k r_width=2u r_length=256.5u
X63 NZ XRZ__1 VSS ppolyf_u_3k r_width=2u r_length=254u
X64 XRZ__2 XRZ__1 VSS ppolyf_u_3k r_width=2u r_length=254u
X65 XRZ__2 XRZ__3 VSS ppolyf_u_3k r_width=2u r_length=254u
X66 N2 XRZ__3 VSS ppolyf_u_3k r_width=2u r_length=254u
X67 NB XR1__1 VSS ppolyf_u_3k r_width=2u r_length=175u
X68 EC XR1__1 VSS ppolyf_u_3k r_width=2u r_length=175u
X69 NBTOP XRT__1 VSS ppolyf_u_3k r_width=2u r_length=8.75u
X70 NB XRT__1 VSS ppolyf_u_3k r_width=2u r_length=8.75u

R_10 NT NT__par 4684.5858
C_10 NT__par VSS 4.9951788e-14
R_11 N1 N1__par 4967.8583
C_11 N1__par VSS 5.978126e-14
R_12 N2 N2__par 7855.0506
C_12 N2__par VSS 8.4779094e-14
R_13 NKM NKM__par 4876.8874
C_13 NKM__par VSS 5.7923066e-14
R_14 TOK TOK__par 4690.5254
C_14 TOK__par VSS 5.2350545e-14
R_15 NOKO NOKO__par 4792.4183
C_15 NOKO__par VSS 5.9161863e-14
R_16 NOKL NOKL__par 4883.997
C_16 NOKL__par VSS 6.0794305e-14
R_17 NOKX NOKX__par 4848.8283
C_17 NOKX__par VSS 5.9899291e-14
R_18 KS1 KS1__par 4818.8511
C_18 KS1__par VSS 5.4330567e-14
R_19 KS2 KS2__par 4819.3911
C_19 KS2__par VSS 5.4548635e-14
R_20 KS3 KS3__par 4819.931
C_20 KS3__par VSS 5.4766704e-14
R_21 KS4 KS4__par 4820.471
C_21 KS4__par VSS 5.4984773e-14
R_22 NKG NKG__par 4848.0503
C_22 NKG__par VSS 5.7785044e-14
R_24 NB NB__par 7667.0394
C_24 NB__par VSS 7.6118691e-14
R_25 EC EC__par 2791.7858
C_25 EC__par VSS 7.4268842e-14
R_26 NZ NZ__par 2787.6635
C_26 NZ__par VSS 2.5602753e-14
R_28 XRZ__2 XRZ__2__par 18.25
C_28 XRZ__2__par VSS 1.8067e-15
R_29 XR2__14 XR2__14__par 18.25
C_29 XR2__14__par VSS 1.8067e-15
R_3 PG PG__par 5084.4335
C_3 PG__par VSS 6.829458e-14
R_30 XR2__12 XR2__12__par 18.25
C_30 XR2__12__par VSS 1.8067e-15
R_31 XR2__10 XR2__10__par 18.25
C_31 XR2__10__par VSS 1.8067e-15
R_32 XR2__8 XR2__8__par 18.25
C_32 XR2__8__par VSS 1.8067e-15
R_33 XR2__6 XR2__6__par 18.25
C_33 XR2__6__par VSS 1.8067e-15
R_34 XR2__4 XR2__4__par 18.25
C_34 XR2__4__par VSS 1.8067e-15
R_35 XR2__2 XR2__2__par 18.25
C_35 XR2__2__par VSS 1.8067e-15
R_36 XRT__1 XRT__1__par 18.25
C_36 XRT__1__par VSS 1.8067e-15
R_37 ER ER__par 2787.674
C_37 ER__par VSS 3.3170077e-14
R_39 XR1__1 XR1__1__par 18.25
C_39 XR1__1__par VSS 1.8067e-15
R_4 NA NA__par 8008.5898
C_4 NA__par VSS 8.7590412e-14
R_40 XRZ__3 XRZ__3__par 18.25
C_40 XRZ__3__par VSS 1.8067e-15
R_41 XRZ__1 XRZ__1__par 18.25
C_41 XRZ__1__par VSS 1.8067e-15
R_42 XR2__13 XR2__13__par 18.25
C_42 XR2__13__par VSS 1.8067e-15
R_43 XR2__11 XR2__11__par 18.25
C_43 XR2__11__par VSS 1.8067e-15
R_44 XR2__1 XR2__1__par 18.25
C_44 XR2__1__par VSS 1.8067e-15
R_45 XR2__3 XR2__3__par 18.25
C_45 XR2__3__par VSS 1.8067e-15
R_46 XR2__5 XR2__5__par 18.25
C_46 XR2__5__par VSS 1.8067e-15
R_47 XR2__7 XR2__7__par 18.25
C_47 XR2__7__par VSS 1.8067e-15
R_48 XR2__9 XR2__9__par 18.25
C_48 XR2__9__par VSS 1.8067e-15
R_49 XR2__15 XR2__15__par 18.25
C_49 XR2__15__par VSS 1.8067e-15
R_5 NBTOP NBTOP__par 7796.7657
C_5 NBTOP__par VSS 7.8325844e-14
R_7 NBG NBG__par 4871.7578
C_7 NBG__par VSS 5.5851412e-14
R_8 PB PB__par 5396.0003
C_8 PB__par VSS 7.9168117e-14
RBIAS_OK BIAS_OK BIAS_OK__par 4679.0384
CBIAS_OK BIAS_OK__par VSS 4.7753184e-14
RIBIAS IBIAS IBIAS__par 4663.4113
CIBIAS IBIAS__par VSS 4.1483963e-14
RVDD VDD VDD__par 375.0961
CVDD VDD__par VSS 1.4865308e-13
RVREF VREF VREF__par 7695.5815
CVREF VREF__par VSS 7.3513489e-14
RVSS VSS VSS__par 145.0127
CVSS VSS__par VSS 2.53079568e-13
.ends bias_core
